US08084452B2
4-[[(5,6-Dichloropyridin-3-yl)methyl](2-fluoroethyl)amino]furan-2(5H)-one
217 mg (1.49 mmol) of 4-[(2-fluoroethyl)amino]furan-2(5H)-one (VI-1) and 90 mg (2.24 mmol) of a 60% strength dispersion of sodium hydride in mineral oil in 100 ml of tetrahydrofuran are heated under reflux for 2 hours. After cooling to room temperature, 360 mg (1.49 mmol) of 3-(bromomethyl)-5,6-dichloropyridine are added, and the mixture is heated under reflux for a further 3 hours. After cooling to room temperature and addition of methanol, the reaction mixture is concentrated under reduced pressure. The residue is taken up in ethyl acetate, washed successively twice with 1 N aqueous hydrochloric acid, twice with 1 N aqueous sodium hydroxide solution and saturated sodium chloride solution and dried over sodium sulphate. After concentration of the organic phase under reduced pressure and purification of the residue by column chromatography on silica gel (silica gel 60-Merck, particle size: 0.04 to 0.063 mm) using the mobile phase mixture ethyl acetate:cyclohexane (5:1), 260 mg (56% of theory) of 4-[[(5,6-dichloropyridin-3-yl)methyl](2-fluoroethyl)amino]furan-2(5H)-one are obtained.

reactant | 4-[(2-fluoroethyl)amino]furan-2(5H)-one | 1.49 mmol, 217 mg | FCCNC1=CC(OC1)=O | C6H8FNO2
reactant | sodium hydride | [H-].[Na+]
reactant | 3-(bromomethyl)-5,6-dichloropyridine | 1.49 mmol, 360 mg | BrCC=1C=NC(=C(C1)Cl)Cl | C6H4BrCl2N
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-[[(5,6-Dichloropyridin-3-yl)methyl](2-fluoroethyl)amino]furan-2(5H)-one | ClC=1C=C(C=NC1Cl)CN(C1=CC(OC1)=O)CCF | C12H11Cl2FN2O2
